US08754079B2
XXXXXXI.2. 3-(5-fluoro-2-nitrophenoxy)-6-oxabicyclo[3.1.0]hexane
To 2-(cyclopent-3-enyloxy)-4-fluoro-1-nitrobenzene (2.05 g) in methylene chloride (45.0 ml) at 0° C. was added 3-chloroperoxybenzoic acid (2.95 g) and the mixture was allowed to warm to room temperature overnight. The reaction mixture was diluted with methylene chloride and washed with 10% aq. K2CO3. The organic layer was passed through a hydrophobic frit and solvent evaporated to give the desired product.

reactant | 2-(cyclopent-3-enyloxy)-4-fluoro-1-nitrobenzene | 2.05 g | C1(CC=CC1)OC1=C(C=CC(=C1)F)[N+](=O)[O-] | C11H10FNO3
reactant | 3-chloroperoxybenzoic acid | 2.95 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | methylene chloride | 45.0 ml | C(Cl)Cl | CH2Cl2
product | 3-(5-fluoro-2-nitrophenoxy)-6-oxabicyclo[3.1.0]hexane | FC=1C=CC(=C(OC2CC3OC3C2)C1)[N+](=O)[O-] | C11H10FNO4
